US07846960B2
{4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-carbamic Acid Tert-butyl Ester
A solution of di-tert-butyl dicarbonate (1.55 g, 7.1 mmol) in dichloromethane (3.0 mL) is added to a 0° C. solution of 4-[2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenylamine (2.3 g, 5.9 mmol) and triethylamine (0.72 g, 7.1 mmol) in dichloromethane (20 mL). The reaction mixture is stirred at room temperature for 16.0 h. The reaction mixture is partitioned between dichloromethane (50 mL) and water (50 mL). The organic phase is washed with brine (50 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure to a residue. The residue is purified by flash chromatography (EtOAc/Hexane) to afford the title compound as a solid (1.9 g, 66%). LC-ES/MS m/e 490.0 (M+1).

reactant | di-tert-butyl dicarbonate | 7.1 mmol, 1.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-[2-(2,6-dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenylamine | 5.9 mmol, 2.3 g | ClC1=C(C(=CC=C1)Cl)N1N=CC(=C1COC1=CC(=C(C=C1)N)C)C(C)C | C20H21Cl2N3O
reactant | triethylamine | 7.1 mmol, 0.72 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | {4-[2-(2,6-Dichloro-phenyl)-4-isopropyl-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-carbamic Acid Tert-butyl Ester | 1.9 g, 66% | C(C)(C)(C)OC(NC1=C(C=C(C=C1)OCC=1N(N=CC1C(C)C)C1=C(C=CC=C1Cl)Cl)C)=O | C25H29Cl2N3O3
